US06251917B1
a) 3-(2-Naphthylsulfonamido)benzoic acid
5 g (35.5 mmol) of 3-aminobenzoic acid and 8.3 g (36.5 mmol) of 2-naphthylsulfonyl chloride were reacted by the method of procedure 4b, affording 10.5 g (89%) of the product.

reactant | 3-aminobenzoic acid | 35.5 mmol, 5 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 2-naphthylsulfonyl chloride | 36.5 mmol, 8.3 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 3-(2-Naphthylsulfonamido)benzoic acid | 10.5 g, 89% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C17H13NO4S
